US08022075B2
Subsequently, 5-bromo-2-[4-(1H-3-pyrazolyl)phenyl]-1H-benz[d]imidazole (75 mg) was dissolved in N,N-dimethylformamide (1 mL), and potassium carbonate (67 mg) and di-tert-butyl dicarbonate (106 μL) were added to the solution, followed by stirring at room temperature for 2 hours. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate, followed by washing sequentially with water and saturated saline and then drying over sodium sulfate. The product was subjected to flash chromatography, and fractions eluted by n-hexane-ethyl:acetate (4:1) were concentrated under reduced pressure, to thereby yield a 1:1 mixture (118 mg) of tert-butyl 5-bromo-2-{4-[(tert-butoxycarbonyl)-1H-3-pyrazolyl]phenyl}-1H-benz[d]imidazole-1-carboxylate and tert-butyl 6-bromo-2-{4-[(tert-butoxycarbonyl)-1H-3-pyrazolyl]phenyl}-1H-benz[d]imidazole-1-carboxylate.

reactant | 5-bromo-2-[4-(1H-3-pyrazolyl)phenyl]-1H-benz[d]imidazole | 75 mg | BrC1=CC2=C(NC(=N2)C2=CC=C(C=C2)C2=NNC=C2)C=C1 | C16H11BrN4
reactant | potassium carbonate | 67 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 106 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 5-bromo-2-{4-[(tert-butoxycarbonyl)-1H-3-pyrazolyl]phenyl}-1H-benz[d]imidazole-1-carboxylate | 118 mg | BrC1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C2=NN(C=C2)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C26H27BrN4O4
